US07253286B2
4-(4-Aminophenoxy)-2-cyclobutanecarbonylaminopyridine
N1-Cyclobutanecarbonyl-N1-[4-(4-nitrophenoxy)-2-pyridyl]-1-cyclobutanecarboxamide (720 mg), iron powder (1.4 g), ammonium chloride (2.4 g), dimethylformamide (52 ml), ethanol (2 ml) and water (2 ml) were stirred at 100° C. for 15 minutes. The mixture was filtered with celite, and then water and ethyl acetate were added for extraction. The organic layer was washed 5 times with aqueous ammonium chloride solution and then dried over magnesium sulfate. The drying agent was filtered off, the solvent was distilled off under reduced pressure, ethyl acetate and hexane were added to the residue and the precipitated solid was filtered out to obtain 130 mg of a solid.

reactant | N1-Cyclobutanecarbonyl-N1-[4-(4-nitrophenoxy)-2-pyridyl]-1-cyclobutanecarboxamide | 720 mg | C1(CCC1)C(=O)N(C(=O)C1CCC1)C1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C21H21N3O5
reactant | ammonium chloride | 2.4 g | [Cl-].[NH4+]
reactant | dimethylformamide | 52 ml | CN(C=O)C | C3H7NO
reactant | ethanol | 2 ml | C(C)O | C2H6O
catalyst | iron | 1.4 g | [Fe] | Fe
solvent | water | 2 ml | O | H2O
product | 4-(4-Aminophenoxy)-2-cyclobutanecarbonylaminopyridine | 130 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)C2CCC2)C=C1 | C16H17N3O2
